US05574042
A mixture of 2-acetylamino-5-formylpyridine (241 mg) and malonic acid (168 mg) in pyridine (0.12 ml) and ethanol (0.36 ml) was refluxed for 2 hours. After cooling the mixture, the precipitate was collected by filtration, and washed ethyl acetate to give (E)-3-(6-acetylamino-3-pyridyl)acrylic acid (248 mg) as a colorless powder.

reactant | 2-acetylamino-5-formylpyridine | 241 mg | C(C)(=O)NC1=NC=C(C=C1)C=O | C8H8N2O2
reactant | malonic acid | 168 mg | C(CC(=O)O)(=O)O | C3H4O4
solvent | pyridine | 0.12 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 0.36 ml | C(C)O | C2H6O
product | (E)-3-(6-acetylamino-3-pyridyl)acrylic acid | 248 mg | C(C)(=O)NC1=CC=C(C=N1)/C=C/C(=O)O | C10H10N2O3
